* RC Bandpass Circuit
Vin 1 0 PULSE(0 1 1m 1u 1u 10m 20m 0) ; input root
C1 1 2 1u
R1 2 0 1k
R2 2 3 1k
C2 3 0 1u ; output:V
.tran 0 50m 0 10u
.backanno
.end
